US07915443B2
N-[{2-[(2,3-dihydroxypropyl)(methyl)amino]-2-oxoethyl}(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
To the solution of (S)-ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate (3.5 g, 6.3 mmol) in anhydrous THF (50 mL) was added dropwise 3-methylamino-1,2-propanediol (6.77 g) and the resulting reaction solution was heated at 75° C. for 8.5 hours. The reaction was then concentrated under reduced pressure and the yellow oily residue was partitioned between aqueous NH4Cl and EtOAc. The organic layer was separated and washed with saturated aqueous NaHCO3 (1×), brine (1×), and dried with sodium sulfate. The upper clear solution was decanted and evaporated, the resulting yellowish foamy residue was subjected to a gradient column chromatography (from EtOAc-Hex 6:1 to MeOH-EtOAc 1:50) yielding the title compound as white foam in amount of 2.56 g (66%).

reactant | (S)-ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate | 6.3 mmol, 3.5 g | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=CC=C1
reactant | 3-methylamino-1,2-propanediol | 6.77 g | CNCC(CO)O | C4H11NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-[{2-[(2,3-dihydroxypropyl)(methyl)amino]-2-oxoethyl}(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OC(CN(C(CS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O)=O)C)CO | C32H30N4O7S
